US04094982
N-Acetyl 5-nitro-3-pyridinesulfonamide
A mixture of 0.5g. of 5-nitro- 3-pyridinesulfonamide, 2 ml. of acetic anhydride and 2 drops of conc. sulfuric acid was stirred at 90° C. for 1 hour. The solvent was then distilled off from the reaction mixture and the crystalline residue was recrystallized from ethanol to give 0.36g. of the desired product. m.p. 176° - 178° C.

reactant | 5-nitro- 3-pyridinesulfonamide | [N+](=O)([O-])C=1C=C(C=NC1)S(=O)(=O)N | C5H5N3O4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | N-Acetyl 5-nitro-3-pyridinesulfonamide | C(C)(=O)NS(=O)(=O)C=1C=NC=C(C1)[N+](=O)[O-] | C7H7N3O5S
